US06201006B1
Synthesis of 1-[(R)-2-[[(S)-2-[2-(6-amidino-1-ethyl-indol-2-yl)ethyl]pyrrolidinyl]carbonyl]pyrrolidinyl]ethane-1,2-dicarboxylic acid (Compound 123)
250 mg(0.525 mmole) of ethyl-2-[(R)-2-[[(S)-2-[2-(6-cyano-1-ethyl-indol-2-yl)ethyl]pyrrolidinyl]carbonyl]pyrrolidinyl]acetate was dissolved in 15 ml of tetrahydrofuran and then cooled to −78° C. 0.79 ml of lithium bis(trimethylsilyl)amide (1.0M solution in tetrahydrofuran) was added dropwise thereto, and the reaction mixture was stirred for 30 minutes. 0.09 ml(0.787 mmole) of ethyl bromoacetate diluted with 5 ml of tetrahydrofuran was added dropwise thereto, and the resulting mixture was stirred for one hour. After water was added, the reaction solution thereby obtained was extracted with dichloromethane. The organic layer was dried over sodium sulfate and evaporated under reduced pressure to remove the solvent. The residue was purified with silica gel column chromatography [eluent: dichloromethane/methanol(40:1)] to obtain 180 mg (Yield: 63.9%) of the title compound as a pale yellow foam.

reactant | ethyl-2-[(R)-2-[[(S)-2-[2-(6-cyano-1-ethyl-indol-2-yl)ethyl]pyrrolidinyl]carbonyl]pyrrolidinyl]acetate | 0.525 mmole, 250 mg | C(C)OC(CN1[C@H](CCC1)C(=O)N1[C@@H](CCC1)CCC=1N(C2=CC(=CC=C2C1)C#N)CC)=O | C26H34N4O3
reactant | lithium bis(trimethylsilyl)amide | 1.0M, 0.79 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | ethyl bromoacetate | 0.787 mmole, 0.09 ml | BrCC(=O)OCC | C4H7BrO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-[(R)-2-[[(S)-2-[2-(6-amidino-1-ethyl-indol-2-yl)ethyl]pyrrolidinyl]carbonyl]pyrrolidinyl]ethane-1,2-dicarboxylic acid | 180 mg, Yield: 63.9% | C(N)(=N)C1=CC=C2C=C(N(C2=C1)CC)CC[C@H]1N(CCC1)C(=O)[C@@H]1N(CCC1)C(CC(=O)O)C(=O)O | C26H35N5O5
